US08110585B2
1-[(1S,2S)-2-(2-methylpyrazolo[1,5-a]pyridin-4-yl)cyclopropyl]methanamine dihydrochloride
To a solution of tert-butyl {[(1S,2S)-2-(2-methylpyrazolo[1,5-a]pyridin-4-yl)cyclopropyl]methyl}carbamate (1.84 g, 6.11 mmol) in methanol (6 mL) was added hydrochloric acid-methanol reagent (manufactured by TCI, 18 mL) solution, and the mixture was stirred at room temperature for 15 hr. The solvent was concentrated under reduced pressure to give the title compound (1.69 g, yield 100%).

reactant | tert-butyl {[(1S,2S)-2-(2-methylpyrazolo[1,5-a]pyridin-4-yl)cyclopropyl]methyl}carbamate | 6.11 mmol, 1.84 g | CC1=NN2C(C(=CC=C2)[C@@H]2[C@H](C2)CNC(OC(C)(C)C)=O)=C1 | C17H23N3O2
reactant | hydrochloric acid methanol | 18 mL | Cl.CO
solvent | methanol | 6 mL | CO | CH4O
product | 1-[(1S,2S)-2-(2-methylpyrazolo[1,5-a]pyridin-4-yl)cyclopropyl]methanamine dihydrochloride | 1.69 g, yield 100% | Cl.Cl.CC1=NN2C(C(=CC=C2)[C@@H]2[C@H](C2)CN)=C1 | InChI=1S/C12H15N3.2ClH/c1-8-5-12-10(11-6-9(11)7-13)3-2-4-15(12)14-8;;/h2-5,9,11H,6-7,13H2,1H3;2*1H/t9-,11+;;/m1../s1
